* source TPS61322_TRANS
X_U1         SW VOUT 0 TPS61322_TRANS
V_VIN         VIN 0  
+PULSE 0 1.2 0.1m 10u 1000u 1.5m 2
C_C2         VOUT 0  10u IC={VOUT*SS} TC=0,0 
R_RLOAD         0 VOUT  200 TC=0,0 
C_C1         VIN 0  150u  TC=0,0 
X_L1         VIN SW LDCR PARAMS:  L=2.2u  DCR=80m IC=0
.PARAM  ss=0 vout=2.2
