* source TPS613222A
V_VIN         VIN 0  
+PULSE 0 2 0.1m 10u 1000u 1.5m 2
C_C1         VIN 0  4.7u  TC=0,0 
X_L1         VIN SW LDCR PARAMS:  L=2.2u  DCR=120m IC=0
X_U1         SW VOUT 0 TPS613222A_TRANS
C_C2         VOUT 0  44u IC={VOUT*SS} TC=0,0 
R_RLOAD         0 VOUT  10 TC=0,0 
.PARAM  ss=0 vout=5
